US07001914B2
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-(3-nitrophenyl)furan-2-carboxamide)
Prepared by a method analogous to that described in Example 1 from (R)-N-(1-azabicyclo[2.2.2]oct-3-yl)(5-bromofuran-2-carboxamide) and 3-nitrophenylboronic acid, using tetrakis(triphenylphosphine)palladium(0) and sodium carbonate in a mixture of ethylene glycol dimethyl ether and water. The compound was purified by reverse phase HPLC on a Waters Bondapak® C18 column using a gradient of acetonitrile and 0.1% aqueous trifluoroacetic acid as the eluent. The product-containing fractions were then evaporated and the residue dissolved in methanol. Excess hydrogen chloride solution (1M in diethyl ether) was added and the solution was evaporated. Recrystallisation from methanol/diethyl ether gave the hydrochloride salt of the title compound as a yellow solid; MS (ES+) 342 (MH+).

reactant | (R)-N-(1-azabicyclo[2.2.2]oct-3-yl)(5-bromofuran-2-carboxamide) | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC(=CC2)Br | C12H15BrN2O2
reactant | 3-nitrophenylboronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-(3-nitrophenyl)furan-2-carboxamide) | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC(=CC2)C2=CC(=CC=C2)[N+](=O)[O-] | C18H19N3O4
